US04939249
The solution of sodium 7-phenoxyacetylamino-3-methyl-3-cephem-4-carboxylate was added to a solution of 71.3 g (210 mmole) of tetra-n-butylammonium hydroxide sulfate in 700 ml of methylene chloride and 700 ml of water which had been readjusted to pH 7.5 with 2N sodium hydroxide. The mixture was stirred for about 5 minutes and the methylene chloride layer was separated. The aqueous phase was extracted twice with methylene chloride and the extracts were combined with the organic layer. The organic layer was dried over magnesium sulfate and evaporated to a brown oil. The oil was dissolved in 250 ml of chloroform and 34.6 ml (400 mmole) of allyl bromide (previously filtered through activated alumina) were added with stirring. The mixture was stirred for about 19 hours at room temperature and when thin layer chromatography indicated some remaining starting material, 17 ml of allyl bromide were added and the mixture was heated to 50° C. with stirring for about 2 hours. The reaction mixture was evaporated on a rotary evaporator to remove chloroform and the concentrate was dissolved in 3:1, v:v of diethyl ether:methylene chloride and the solution extracted twice with pH 7 buffer, once with brine and was dried over magnesium sulfate. The solution was evaporated under vacuum to provide allyl 7-phenoxyacetylamino-3-methyl-3-cephem-4-carboxylate as a crude yellow solid.

reactant | sodium 7-phenoxyacetylamino-3-methyl-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)[O-])C1=O.[Na+]
reactant | tetra-n-butylammonium hydroxide sulfate | 210 mmole, 71.3 g | S(=O)(=O)([O-])[O-].[OH-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | allyl bromide | 400 mmole, 34.6 ml | C(C=C)Br | C3H5Br
reactant | allyl bromide | 17 ml | C(C=C)Br | C3H5Br
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
solvent | water | 700 ml | O | H2O
product | allyl 7-phenoxyacetylamino-3-methyl-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC=C)C1=O | C19H20N2O5S
